US07557114B2
3′,5′-Difluoro-4-methanesulfonyl-biphenyl-2-carboxylic acid
Prepared in analogy to Example B25 from 2-Iodo-5-methanesulfonyl-benzoic acid (example B19(b)) and 3,5-difluoro-benzeneboronic acid. Light brown solid. MS (m/e): 311.1 ([M−H], 100%).

reactant | 2-Iodo-5-methanesulfonyl-benzoic acid | IC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7IO4S
reactant | 3,5-difluoro-benzeneboronic acid | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
product | 3′,5′-Difluoro-4-methanesulfonyl-biphenyl-2-carboxylic acid | FC=1C=C(C=C(C1)F)C=1C(=CC(=CC1)S(=O)(=O)C)C(=O)O | C14H10F2O4S
